US06100419
A mixture of 0.115 g (1 mmole) of cyclohexanone oxime, 0.1 g (1 mmole) of isopropenyl acetate, 0.085 g (1 mmole) of acetone cyanohydrin, 0.045 g (0.1 mmole) of di(η5 -pentamethylcyclopentadienyl)samarium [Cp*2Sm(THF)2 ], and 1 ml of toluene was stirred at 25° C. for 3 hours. 1-acetyloxyamino-1-cyanocyclohexane was formed in the reaction mixture in a 60% yield, and the conversion of cyclohexanone oxime was 72%.

reactant | cyclohexanone oxime | 1 mmole, 0.115 g | C1(CCCCC1)=NO | C6H11NO
reactant | isopropenyl acetate | 1 mmole, 0.1 g | C(C)(=O)OC(=C)C | C5H8O2
reactant | acetone cyanohydrin | 1 mmole, 0.085 g | CC(C#N)(O)C | C4H7NO
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | 1-acetyloxyamino-1-cyanocyclohexane | 60% yield | C(C)(=O)ONC1(CCCCC1)C#N | C9H14N2O2
